US04347358
A mixture of 12.5 g of t-butyl 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylate-1-oxide and 50 ml of trifluoroacetic acid was stirred at room temperature for 15 minutes and was then evaporated to dryness under vacuo. 25 ml of dichloromethane were added to the residue and evaporation to dryness was repeated. A 1:1 mixture of ether and heptane was added to the residue and the formed crystals were vacuum filtered and washed with the same mixture to obtain 9.6 g of 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylic acid-1-oxide as an almost colorless solid, having the following characteristics:

reactant | t-butyl 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylate-1-oxide | 12.5 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(C(S2=O)Br)CBr)C(=O)OC(C)(C)C)C1=O | C19H20Br2N2O5S
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-benzamido-2-bromo-3-bromomethyl-3-cephem-4-carboxylic acid-1-oxide | 9.6 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(C(S2=O)Br)CBr)C(=O)O)C1=O | C15H12Br2N2O5S
